US07371749B2
2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid methyl ester
Using 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride and (2-methoxy-ethyl)-methyl-amine, the title compound was obtained as light brown viscous oil (92% yield). MS: m/e=242(M+H+).

reactant | 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1N(C(=NC1)CCl)C
reactant | (2-methoxy-ethyl)-methyl-amine | COCCNC | C4H11NO
product | 2-{[(2-Methoxy-ethyl)-methyl-amino]-methyl}-3-methyl-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1)CN(C)CCOC)C | C11H19N3O3
